US06506747B1
To a solution of 3-bromopyridine (12.0 g, 75.6 mmol) and 1-pentyn-3-ol (7.0 mL, 83.2 mmol) in triethylamine (150 mL) were added Pd(PPh3)4 (88 mg, 0.076 mmol) and copper(I) bromide dimethylsulfide (31 mg, 0.15 mmol). The mixture was heated at 70° C. for 5 hr, cooled to room temperature and filtered. The filter cake was washed with EtOAc (30 mL). The combined filtrate was concentrated to give 1-(3-pyridinyl)-1-pentyn-3-ol (12.2 g, 99%) as a dark oil.

reactant | 3-bromopyridine | 75.6 mmol, 12.0 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | 1-pentyn-3-ol | 83.2 mmol, 7.0 mL | C#CC(CC)O | C5H8O
solvent | triethylamine | 150 mL | C(C)N(CC)CC | C6H15N
catalyst | Pd(PPh3)4 | 0.076 mmol, 88 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) bromide dimethylsulfide | 0.15 mmol, 31 mg | CSC.[Cu]Br
product | 1-(3-pyridinyl)-1-pentyn-3-ol | 12.2 g, 99% | N1=CC(=CC=C1)C#CC(CC)O | C10H11NO
